US06762180B1
3-Z-[1-(4-(piperidin-1-yl-methyl)-anilino)-1-phenyl-methylene]-6-ethoxycarbonyl-2-indolinone
1.5 g of 1-acetyl-3-(1-ethoxy-1-phenylmethylene)-6-ethoxycarbonyl-2-indolinone and 1.1 g of 4-(piperidin-1-yl-methyl)-aniline are dissolved in 15 ml of dimethylformamide and stirred for 45 minutes at 100° C. After cooling 5.0 ml of piperidine are added and the mixture is stirred for another 3 hours at room temperature. The solvent is removed and the residue purified over an aluminium oxide column (activity: 2-3) with methylene chloride/ethanol (100:3) as eluant.

reactant | 1-acetyl-3-(1-ethoxy-1-phenylmethylene)-6-ethoxycarbonyl-2-indolinone | 1.5 g | C(C)(=O)N1C(C(C2=CC=C(C=C12)C(=O)OCC)=C(C1=CC=CC=C1)OCC)=O | C22H21NO5
reactant | 4-(piperidin-1-yl-methyl)-aniline | 1.1 g | N1(CCCCC1)CC1=CC=C(N)C=C1 | C12H18N2
reactant | piperidine | 5.0 ml | N1CCCCC1 | C5H11N
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 3-Z-[1-(4-(piperidin-1-yl-methyl)-anilino)-1-phenyl-methylene]-6-ethoxycarbonyl-2-indolinone | N1(CCCCC1)CC1=CC=C(N\C(\C2=CC=CC=C2)=C\2/C(NC3=CC(=CC=C23)C(=O)OCC)=O)C=C1 | C30H31N3O3
